US04751295
7-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-[3-(3-carbamoylpyridinio)-1-propen-1-yl]-3-cephem-4-carboxylate (I-1G)
To a solution of diphenylmethyl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(3-iodo-1-propen-1-yl)-3-cephem-4-carboxylate (IX-1) (E, 716 mg, 1 mmole) in DMSO (2 ml) was added nicotinamide (244 mg, 2 mmoles), and the mixture was stirred at ambient temperature for 1.5 hours and poured into ethyl acetate (200 ml) with stirring. The resulting precipitate was collected by filtration. The quaternized salt (500 mg) was dissolved in HCOOH (5 ml) in the presence of sodium bisulfite (50 mg), and the mixture was heated at 40°-50° C. for 40 minutes, with stirring, and evaporated to dryness. The residue was dissolved in water (40 ml) and an insoluble solid was filtered off and washed with a small amount of water. The filtrate and wash were combined and chromatographed on a reverse phase column, PrepPAK-500/C18 (100 ml). After elution with water and 5%, 10% and 20% aqueous CH3OH, successively, the fractions containing the desired material were combined, concentrated in vacuo and freeze-dried to yield 21 mg (3.8%) of the title compound (I-1G) (E) as a yellow powder. Mp. >175° C. (dec.).

reactant | diphenylmethyl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(3-iodo-1-propen-1-yl)-3-cephem-4-carboxylate | 1 mmole, 716 mg | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CCI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C28H25IN6O5S2
reactant | nicotinamide | 2 mmoles, 244 mg | C(C1=CN=CC=C1)(=O)N | C6H6N2O
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | 7-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-[3-(3-carbamoylpyridinio)-1-propen-1-yl]-3-cephem-4-carboxylate | 21 mg, 3.8% | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC[N+]2=CC(=CC=C2)C(N)=O)C(=O)[O-])C1=O)=NOC | C21H20N8O6S2
